2142-09-15 02:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2142-9-14**] 02:40 AM
 MULTI LUMEN - START [**2142-9-14**] 03:12 AM
 EKG - At [**2142-9-14**] 04:00 AM
   Allergies:
   Iodine
   Unknown; Rash;
   Ampicillin
   Rash; facial sw
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-14**] 10:30 AM
   Cefipime - [**2142-9-14**] 11:30 AM
   Ceftriaxone - [**2142-9-14**] 03:00 PM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2142-9-14**] 02:58 AM
   Fentanyl - [**2142-9-14**] 06:00 AM
   Midazolam (Versed) - [**2142-9-14**] 05:44 PM
   Famotidine (Pepcid) - [**2142-9-14**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-15**] 02:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 62 (60 - 118) bpm
   BP: 143/56(76) {48/12(20) - 177/80(105)} mmHg
   RR: 22 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 62 Inch
    CVP: 4 (1 - 26)mmHg
   Total In:
                                                                  2,797 mL
                                                                    197 mL
   PO:
   TF:
   IVF:
                                                                  2,637 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    814 mL
                                                                    120 mL
   Urine:
                                                                    814 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,983 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/47/402/31/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 804
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   9.3 g/dL
   139 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.6 mEq/L
   43 mg/dL
   107 mEq/L
   145 mEq/L
   29.1 %
   18.1 K/uL
        [image002.jpg]
                            [**2142-9-14**]  03:01 AM
                            [**2142-9-14**]  03:05 AM
                            [**2142-9-14**]  03:53 AM
                            [**2142-9-14**]  10:38 AM
                            [**2142-9-14**]  05:17 PM
   WBC
   10.4
   21.6
   18.1
   Hct
   33.4
   29.6
   29.1
   Plt
   168
   191
   166
   Cr
   2.3
   2.0
   1.7
   TropT
   0.03
   2.88
   3.80
   TCO2
   26
   27
   Glucose
   [**Telephone/Fax (3) 10645**]
   Other labs: PT / PTT / INR:13.8/26.8/1.2, CK / CKMB /
   Troponin-T:1465/144/3.80, Differential-Neuts:87.8 %, Lymph:6.3 %,
   Mono:5.5 %, Eos:0.2 %, Lactic Acid:8.1 mmol/L, Ca++:6.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   73yo F with h/o CAD, sCHF, CKF, initially presented with LLQ abd pain,
   ongoing typical chest pain, developing into cardiac arrest,
   resuscitated for ~20min prior to resuming spontaneous perfusion.
   .
   #  Etiology of arrest not completely clear but differential includes
   arrythmia, myocardial infarction, or pulmonary embolus.  Arrythmia is
   possible given long-standing history of coronary disease and multiple
   cardiac surgies, suggesting focus for arrythmia could be present.  MI
   also possibliity, although cardiac enzymes can be elevated following
   chest compressions.  Other evidence supportive of MI is acute worsening
   of right ventricular contractile function compared to prior echo.  EKG,
   however does not show any new ST-T wave changes consistent with
   ischemia.  Finally, PE can cause right ventricular heart strain and
   pulmonary HTN as noted on echo.  However, CTA was negative for PE,
   making this diagnosis less likely.  Most likely cause of arrest is
   arrythmia vs myocardial infarction.
   - Continue cooling protocol: meets inclusion criteria based on Vfib
   arrest, time within 4-6hrs, and GCS <10.
   - Touch base w/ cardiology re: possibility of cardiac catheterization.
   Would continue on statin, aspirin, plavix.
   - Given final read of CT, would D/c heparin given low probability of
   PE.
   - Give possibility of arrythmia, touch base w/ EP for evaluation for
   placement of ICD
   .
   # Shock: Confirmed by initial symptoms, and later pt's cold
   temperature, elevated CVPs (20s), enlarged JVPs, EJs; has required
   norepi to maintain MAPs.  Differential for shock includes cardiogenic
   given possibliity of myocardial infarction versus distributive in
   setting of cardiac arrest.  Echo obtained which showed a normal EF, but
   reduced RV contractile function, which reduces right sided cardiac
   output, consequently reducing preload to left side, thus can lead to
   reduced cardiac output despite normal-elevated ejection fraction.
   -To monitor end-organ perfusion, following lactates: this AM lactate
   was . . . . which is . . . than yesterday AM.   CVPs have been .  Renal
   function has also improved suggesting perfusion to the kidney has
   improved. Suggests that overall, shock picture is . . .  Given that
   cardiogenic shock is more likely, would switch from levophed to
   dopamine for additional inotropic effect, and then wean as tolerated.
   -Would focus on decreasing PEEP on vent settings to improve cardiac
   output
   - A line placement ideal for  BP and ABG monitoring, however likely
   difficult to place given IV heparin administration
   .
   # Respiratory Failure: Intubated during code, was clearly hypoxic
   throughout code, even when perfusion was considered present, based on
   pt's appearance. ABGs from femoral "A line" with very poor oxygenation,
   some hypercarbia post intubation but not clear that this is arterial.
   - Currently on FiO2 of 50% and PEEP of 8; oxygenating well per last
   ABG.  Would continue to wean vent settings w/ focus on reducing PEEP to
   improve cardiac output.
   .
   # CAD, angina, CHF: Had been having recurrent chest pain, usually
   responsive to morphine and NTG. Very limiting to daily activity.
   Was being considered for ranolazine for persistent angina and warfarin.
   Poor surgical candidate and known to have severe non-intervenable
   coronary lesions, interventions are limited to optimal medical
   management. Choices limited by hypotension.
   -F/u cards recs
   -Currently on clopidogrel, aspirin, statin
   -Holding Imdur, Metoprolol, in setting of sepsis, taken of digoxin
   earlier
   .
   # Afib: Had been paced, now pacer malfunctioning since shocks. No
   evidence of wire misplacement with CPR based on CXR. Not
   anticoagulated.
   - continue ASA, Plavix
   .
   # h/o bleeding, rectal/vaginal. Currently has large hematoma in left
   forearm, at site of attempted femoral line, subclavian line and right
   IJ line. Does not seem to have significant coagulopathy. Doubt uremic
   coagulopathy as such BUNs.
   -given low likelihood for PE, would D/C heparin
   -continue aygestin for vaginal bleeding
   -guaiac stools
   -holding heparin
   -Goal Hct >30 for cardiac perfusion
   .
   # Acute-on-CKD: Baseline 1.3-1.5, peaked at 2.4 early in admission, had
   been trending down to 1.7 today. CT with evidence of renal infarcts.
   - Monitor BUN/Creat
   - dose meds renally
   - avoid nephrotoxins
   .
   # Abdominal Pain: Improved. DDx includes bowel/mesenteric ischemia in
   setting of severe atherosclerotic disease vs renal infarct.
   .
   # Pulmonary Hypertension: Not taking sildenafil. Acutely worsened
   possibly in setting of hypoxia.
   -Continue nebs/inhaled treatment
   .
   # Diabetes: HbA1c was 10.5% in [**1-1**]. Hold oral antihyperglycemics
   held.
   -continue ISS
   .
   # H/o MRSA Bacteremia
   -continue chronic doxycycline
   .
   # Community Acquired Pneumonia: Completing course of Levofloxacin for
   PNA diagnosed as outpt.
   -Given no other evidence of infection, would D/C vancomycin.
   .
   # FEN: try to avoid furthur IVFs / replete lytes prn / NPO
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen with colace/senna
   -Pain management with tylenol, fentanyl
   .
   ACCESS: PIVs x 2, Right IJ,
   .
   CODE STATUS: Confirmed full on admission
   .
   EMERGENCY CONTACT: Daughter is HCP [**Name (NI) 3213**] [**Name (NI) 10633**] [**Telephone/Fax (1) 10634**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-9-14**] 03:00 AM
   20 Gauge - [**2142-9-14**] 03:03 AM
   Multi Lumen - [**2142-9-14**] 03:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-09-15 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -cardiology recs were:
   -touched base w/ family - daughter is health care proxy who decided
   that she should be DNR
   -echo showed: Compared with the findings of the prior study (images
   reviewed) of [**2141-3-17**], right ventriclular enlargement and
   contractile dysfunction, and pulmonary hypertension, are now frankly
   severe.
   -cordis removed
   -given RV strain following PE arrest, suspicion for PE high: was
   started on IV heparin and sent for CTA
   -given allergy to iodine and renal failure, was premedicated with
   bicarbonate and steroids for the allergy+ RF
   -EP felt the pacer was functioning appropriately
   -on cooling protocol
   -CT did not show any signs of PE, final read still pending
   Allergies:
   Iodine
   Unknown; Rash;
   Ampicillin
   Rash; facial sw
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-14**] 10:30 AM
   Cefipime - [**2142-9-14**] 11:30 AM
   Ceftriaxone - [**2142-9-14**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-9-14**] 05:44 PM
   Famotidine (Pepcid) - [**2142-9-14**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-15**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 75 (62 - 92) bpm
   BP: 99/60(69) {82/22(42) - 143/72(92)} mmHg
   RR: 22 (22 - 22) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 62 Inch
    CVP: 3 (1 - 9)mmHg
   Total In:
                                                                  2,797 mL
                                                                    890 mL
   PO:
   TF:
   IVF:
                                                                  2,637 mL
                                                                    890 mL
   Blood products:
   Total out:
                                                                    814 mL
                                                                    350 mL
   Urine:
                                                                    814 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,983 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/46/185/32/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.3 g/dL
   324 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   43 mg/dL
   105 mEq/L
   145 mEq/L
   29.4 %
   13.4 K/uL
        [image002.jpg]
                            [**2142-9-14**]  03:01 AM
                            [**2142-9-14**]  03:05 AM
                            [**2142-9-14**]  03:53 AM
                            [**2142-9-14**]  10:38 AM
                            [**2142-9-14**]  05:17 PM
                            [**2142-9-15**]  01:42 AM
                            [**2142-9-15**]  02:24 AM
                            [**2142-9-15**]  05:53 AM
   WBC
   10.4
   21.6
   18.1
   13.4
   Hct
   33.4
   29.6
   29.1
   29.4
   Plt
   168
   191
   166
   151
   Cr
   2.3
   2.0
   1.7
   1.6
   1.6
   TropT
   0.03
   2.88
   3.80
   TCO2
   26
   27
   30
   Glucose
   [**Telephone/Fax (3) 10646**]17
   324
   Other labs: PT / PTT / INR:13.6/29.9/1.2, CK / CKMB /
   Troponin-T:1465/144/3.80, Differential-Neuts:87.8 %, Lymph:6.3 %,
   Mono:5.5 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L, Ca++:7.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   ASSESSMENT AND PLAN:
   73yo F with h/o CAD, sCHF, CKF, initially presented with LLQ abd pain,
   ongoing typical chest pain, developing into cardiac arrest,
   resuscitated for ~20min prior to resuming spontaneous perfusion.
   .
   #  Etiology of arrest not completely clear but differential includes
   arrythmia, myocardial infarction, or pulmonary embolus.  Arrythmia is
   possible given long-standing history of coronary disease and multiple
   cardiac surgies, suggesting focus for arrythmia could be present.  MI
   also possibliity, although cardiac enzymes can be elevated following
   chest compressions.  Other evidence supportive of MI is acute worsening
   of right ventricular contractile function compared to prior echo.  EKG,
   however does not show any new ST-T wave changes consistent with
   ischemia.  Finally, PE can cause right ventricular heart strain and
   pulmonary HTN as noted on echo.  However, CTA was negative for PE,
   making this diagnosis less likely.  Most likely cause of arrest is
   arrythmia vs myocardial infarction.
   - Continue cooling protocol: meets inclusion criteria based on Vfib
   arrest, time within 4-6hrs, and GCS <10.
   - Touch base w/ cardiology re: possibility of cardiac catheterization.
   Would continue on statin, aspirin, plavix.
   - Given final read of CT, would D/c heparin given low probability of
   PE.
   - Give possibility of arrythmia, touch base w/ EP for evaluation for
   placement of ICD
   .
   # Shock: Confirmed by initial symptoms, and later pt's cold
   temperature, elevated CVPs (20s), enlarged JVPs, EJs; has required
   norepi to maintain MAPs.  Differential for shock includes cardiogenic
   given possibliity of myocardial infarction versus distributive in
   setting of cardiac arrest.  Echo obtained which showed a normal EF, but
   reduced RV contractile function, which reduces right sided cardiac
   output, consequently reducing preload to left side, thus can lead to
   reduced cardiac output despite normal-elevated ejection fraction.
   -To monitor end-organ perfusion, following lactates: this AM lactate
   was 2.3 which is much improved compared to 8 from yesterday AM.   CVPs
   have been between 3 - 8, also improved.  Renal function has also
   improved suggesting perfusion to the kidney has improved. Suggests that
   overall, shock picture is  improving. Given that cardiogenic shock is
   more likely, would switch from levophed to dopamine for additional
   inotropic effect, and then wean as tolerated.
   -Would focus on decreasing PEEP on vent settings to improve cardiac
   output
   - A line placement ideal for  BP and ABG monitoring, however likely
   difficult to place given IV heparin administration
   .
   # Respiratory Failure: Intubated during code, was clearly hypoxic
   throughout code, even when perfusion was considered present, based on
   pt's appearance. ABGs from femoral "A line" with very poor oxygenation,
   some hypercarbia post intubation but not clear that this is arterial.
   - Currently on FiO2 of 50% and PEEP of 8; oxygenating well per last
   ABG.  Would continue to wean vent settings w/ focus on reducing PEEP to
   improve cardiac output.
   .
   # CAD, angina, CHF: Had been having recurrent chest pain, usually
   responsive to morphine and NTG. Very limiting to daily activity.
   Was being considered for ranolazine for persistent angina and warfarin.
   Poor surgical candidate and known to have severe non-intervenable
   coronary lesions, interventions are limited to optimal medical
   management. Choices limited by hypotension.
   -F/u cards recs
   -Currently on clopidogrel, aspirin, statin
   -Holding Imdur, Metoprolol, in setting of sepsis, taken of digoxin
   earlier
   .
   # Afib: Had been paced, now pacer malfunctioning since shocks. No
   evidence of wire misplacement with CPR based on CXR. Not
   anticoagulated.
   - continue ASA, Plavix
   .
   # h/o bleeding, rectal/vaginal. Currently has large hematoma in left
   forearm, at site of attempted femoral line, subclavian line and right
   IJ line. Does not seem to have significant coagulopathy. Doubt uremic
   coagulopathy as such BUNs.
   -given low likelihood for PE, would D/C heparin
   -continue aygestin for vaginal bleeding
   -guaiac stools
   -holding heparin
   -Goal Hct >30 for cardiac perfusion
   .
   # Acute-on-CKD: Baseline 1.3-1.5, peaked at 2.4 early in admission, had
   been trending down to 1.7 today. CT with evidence of renal infarcts.
   - Monitor BUN/Creat
   - dose meds renally
   - avoid nephrotoxins
   .
   # Abdominal Pain: Improved. DDx includes bowel/mesenteric ischemia in
   setting of severe atherosclerotic disease vs renal infarct.
   .
   # Pulmonary Hypertension: Not taking sildenafil. Acutely worsened
   possibly in setting of hypoxia.
   -Continue nebs/inhaled treatment
   .
   # Diabetes: HbA1c was 10.5% in [**1-1**]. Hold oral antihyperglycemics
   held.
   - continue ISS
   .
   # H/o MRSA Bacteremia
   - continue chronic doxycycline
   .
   # Community Acquired Pneumonia: Completing course of Levofloxacin for
   PNA diagnosed as outpt.
   -Given no other evidence of infection, would D/C vancomycin.
   .
   # FEN: try to avoid furthur IVFs / replete lytes prn / NPO
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen with colace/senna
   -Pain management with tylenol, fentanyl
   .
   ACCESS: PIVs x 2, Right IJ,
   .
   CODE STATUS: Confirmed full on admission
   .
   EMERGENCY CONTACT: Daughter is HCP [**Name (NI) 3213**] [**Name (NI) 10633**] [**Telephone/Fax (1) 10634**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-9-14**] 03:00 AM
   20 Gauge - [**2142-9-14**] 03:03 AM
   Multi Lumen - [**2142-9-14**] 03:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-09-15 09:07:00 Physician Attending Progress Note
TITLE: Critical Care Attending Note
   Chief Complaint: s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -Daughter , HCP, requested code status change to DNR
   -echo: RV enlargement and contractile dysfunction and pHTN reported
   -CTA
 significant PE excluded
   -Post arrest cooling protocol
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Iodine
   Unknown; Rash;
   Ampicillin
   Rash; facial sw
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-14**] 10:30 AM
   Cefipime - [**2142-9-14**] 11:30 AM
   Ceftriaxone - [**2142-9-14**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-9-14**] 05:44 PM
   Famotidine (Pepcid) - [**2142-9-14**] 08:30 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-15**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 74 (62 - 87) bpm
   BP: 100/47(61) {82/22(42) - 143/71(92)} mmHg
   RR: 22 (22 - 22) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 62 Inch
   CVP: 3 (3 - 9)mmHg
   Total In:
                                                                  2,797 mL
                                                                    933 mL
   PO:
   TF:
   IVF:
                                                                  2,637 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                    814 mL
                                                                    350 mL
   Urine:
                                                                    814 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,983 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/46/185/32/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 463
   Physical Examination
   Eyes / Conjunctiva: pupils constricted, slowly reactive
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands,
   unresponsive
   Labs / Radiology
   9.3 g/dL
   151 K/uL
   324 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   43 mg/dL
   105 mEq/L
   145 mEq/L
   29.4 %
   13.4 K/uL
        [image002.jpg]
                            [**2142-9-14**]  03:01 AM
                            [**2142-9-14**]  03:05 AM
                            [**2142-9-14**]  03:53 AM
                            [**2142-9-14**]  10:38 AM
                            [**2142-9-14**]  05:17 PM
                            [**2142-9-15**]  01:42 AM
                            [**2142-9-15**]  02:24 AM
                            [**2142-9-15**]  05:53 AM
   WBC
   10.4
   21.6
   18.1
   13.4
   Hct
   33.4
   29.6
   29.1
   29.4
   Plt
   168
   191
   166
   151
   Cr
   2.3
   2.0
   1.7
   1.6
   1.6
   TropT
   0.03
   2.88
   3.80
   TCO2
   26
   27
   30
   Glucose
   [**Telephone/Fax (3) 10646**]17
   324
   Other labs: PT / PTT / INR:13.6/29.9/1.2, CK / CKMB /
   Troponin-T:1465/144/3.80, Differential-Neuts:87.8 %, Lymph:6.3 %,
   Mono:5.5 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L, Ca++:7.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 CARDIAC ARREST
   -etiology unclear.  [**Name2 (NI) 1204**] underlying severe CAD ischemic dysrhythmia
   presumed secondary to CAD must be considered.  However LVEF preserved
   by report.  RV hypokinesis (global) and worsened pHTN consistent with
   massive PE but no evidence found on CT angio
   -Cardiology following re: whether indication for LHC/intervention
   -Troponins up but MB not.  Trop elevation not surprising given
   prolonged resuscitation.
   - tele reveals only occasional PVCs.  Non-paced beats w/o evidence of
   ST segment elevation
MENTAL STATUS
   -no spontaneous movement
   -pupils remains slowly reactive
   -cont post arrest cooling protocol
   -amount of time without perfusing rhythm is concerning for significant
   anoxic encephalopathy though it is too soon post arrest to
   prognosticate regarding degree of injury sustained.
SHOCK
   -improving
   -lactate improving
   -cvp improving
   -renal function improving
   -LVEF not depressed on echo but RV global HK with pulm HTN
RESP FAILURE
   -cont mech ventilation
   -cont aspirin, plavix
   For full detail of assessment and plan, please see resident note above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-9-14**] 03:00 AM
   20 Gauge - [**2142-9-14**] 03:03 AM
   Multi Lumen - [**2142-9-14**] 03:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2142-09-16 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2142-9-15**] 11:05 AM
   - afib w RVR to 130s given 5 IV dilt, rate improved to 40s for several
   hrs.  again increased to 130s given another 5 which only temporarly
   reduced HR.  repeated dilt 5 and started maintainance of 5/hr and
   uptitrated to 15/hr which reduced hr to 100s.
   - UOP dropped, required several fluid boluses throughout the day
   - family meeting regarding goals of care, will readdress
   Allergies:
   Iodine
   Unknown; Rash;
   Ampicillin
   Rash; facial sw
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-14**] 10:30 AM
   Cefipime - [**2142-9-14**] 11:30 AM
   Ceftriaxone - [**2142-9-14**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-9-15**] 08:49 PM
   Diltiazem - [**2142-9-16**] 02:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-16**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 120 (71 - 1,220) bpm
   BP: 91/56(64) {74/31(44) - 115/71(78)} mmHg
   RR: 17 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.1 kg (admission): 60 kg
   Height: 62 Inch
    CVP: 13 (3 - 13)mmHg
   Total In:
                                                                  4,071 mL
                                                                  1,169 mL
   PO:
   TF:
   IVF:
                                                                  3,951 mL
                                                                  1,169 mL
   Blood products:
   Total out:
                                                                    709 mL
                                                                     74 mL
   Urine:
                                                                    709 mL
                                                                     74 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,362 mL
                                                                  1,095 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 522 (522 - 586) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/44/115/23/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Cardiovascular: Gen: NAD, intubated
   irregularly irregular
   bibasilar rales bilaterally
   abd soft non distended ABS
   2+ peripheral edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   7.6 g/dL
   151 mg/dL
   2.6 mg/dL
   23 mEq/L
   5.0 mEq/L
   54 mg/dL
   105 mEq/L
   142 mEq/L
   24.0 %
   19.7 K/uL
        [image002.jpg]
                            [**2142-9-14**]  03:05 AM
                            [**2142-9-14**]  03:53 AM
                            [**2142-9-14**]  10:38 AM
                            [**2142-9-14**]  05:17 PM
                            [**2142-9-15**]  01:42 AM
                            [**2142-9-15**]  02:24 AM
                            [**2142-9-15**]  05:53 AM
                            [**2142-9-15**]  02:30 PM
                            [**2142-9-15**]  04:52 PM
                            [**2142-9-16**]  04:04 AM
   WBC
   21.6
   18.1
   13.4
   19.7
   Hct
   29.6
   29.1
   29.4
   24.0
   Plt
   191
   166
   151
   208
   Cr
   2.0
   1.7
   1.6
   1.6
   2.0
   2.6
   TropT
   2.88
   3.80
   TCO2
   26
   27
   30
   29
   Glucose
   100
   139
   317
   324
   162
   151
   Other labs: PT / PTT / INR:15.1/26.5/1.3, CK / CKMB /
   Troponin-T:1465/144/3.80, Differential-Neuts:85.0 %, Lymph:8.5 %,
   Mono:6.3 %, Eos:0.1 %, Lactic Acid:2.3 mmol/L, Ca++:7.0 mg/dL, Mg++:2.3
   mg/dL, PO4:5.6 mg/dL
   Imaging: CXR pending
   Assessment and Plan
 CARDIAC ARREST
 DIABETES MELLITUS (DM), TYPE II
   73yo F with h/o CAD, sCHF, CKF, initially presented with LLQ abd pain,
   ongoing typical chest pain, developing into cardiac arrest,
   resuscitated for ~20min prior to resuming spontaneous perfusion.
   # Shock: Pt has hypotension due to reduced cardiac output as a function
   of poor right sided contractility.  [**Month (only) 60**] have [**12-25**] septic shock given new
   leukocytosis and risking temperature.  VAP, line infection, UTI, all
   likely.  End organ perfusion per renal output indications she is not
   adequately perfusing despite pressure support and IVF.  Likely [**12-25**] to
   rapid ventricular rate.
   - pan culture
   - central venous O2 to determine if cardiogenic shock may be
   contributing to his sx
   -  consider addition of dobutamine for improved forward flow and
   reduced afterload
   # Respiratory Failure: Intially intubated due to hypoxia during code,
   now volume overloaded on exam due to right sided heart failure and
   reduced systolic outflow given rapid ventricular rate.  Able to wean to
   PSV but continues to require IVF boluses.  .  Resiratory distress
   unlikley to improve until patient's renal failure improves and pt
   actively diuresing.  Reducing PEEP has not demonstrated improved CO.
   Concern that extubation would cause worsening pulmonary edema.
   # Afib: Had been paced, now pacer malfunctioning since shocks. Rate
   controlled with metoprolol, diltiazem, and digoxin at home.
   - continue on dilt drip at 15/hr
   - start metoprolol for combined effect of nodal agents
   - continue ASA, Plavix
   # Acute-on-CKD: Baseline 1.3-1.5, peaked at 2.7 today, with low UOP [**12-25**]
   to poor renal perfusion.   CT with evidence of renal infarcts.
   - Continue IVF and maintain MAP > 65
   - Monitor BUN/Creat
   - dose meds renally
   - avoid nephrotoxins
   # New leukocytosis, low grade fever - infectious etiology most likley,
   though no bandemia.  Already on levo for CAP.
   - check urine, blood, sputum, assess skin for infection
   - low threshold to start abx
   # h/o bleeding, rectal/vaginal. Currently has large hematoma in left
   forearm, at site of attempted femoral line, subclavian line and right
   IJ line. Does not seem to have significant coagulopathy. Doubt uremic
   coagulopathy as such BUNs.
   -holding heparin
   -Goal Hct >30 for cardiac perfusion
   # Abdominal Pain: Improved. DDx includes bowel/mesenteric ischemia in
   setting of severe atherosclerotic disease vs renal infarct.   Lactates
   improving making this less concerning.
    # PEA vs Vfib arrest -  Arrythmia is possible given long-standing
   history of coronary disease and multiple cardiac surgeries, suggesting
   focus for arrythmia could be present.  MI and PE ruled out.
   - no plan for cath.  Would continue on statin, aspirin, plavix.
   # CAD, angina, CHF: Had been having recurrent chest pain, usually
   responsive to morphine and NTG. Very limiting to daily activity.
   Was being considered for ranolazine for persistent angina and warfarin.
   Poor surgical candidate and known to have severe non-intervenable
   coronary lesions, interventions are limited to optimal medical
   management. Choices limited by hypotension.
   -F/u cards recs
   -Currently on clopidogrel, aspirin, statin
   -Holding Imdur, Metoprolol, in setting of sepsis, taken off digoxin
   earlier
   # Pulmonary Hypertension: off home sildenafil. Acutely worsened
   possibly in setting of hypoxia.
   -Continue nebs/inhaled treatment , maintain oxygenation.
   # Diabetes: HbA1c was 10.5% in [**1-1**]. Hold oral antihyperglycemics
   held.
   - continue ISS
   .
   # H/o MRSA Bacteremia
   - continue chronic doxycycline
   .
   # Community Acquired Pneumonia: Completing course of Levofloxacin for
   PNA diagnosed as outpt.
   -Given no other evidence of infection, would D/C vancomycin.
   .
   # FEN: try to avoid furthur IVFs / replete lytes prn / NPO
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen with colace/senna
   -Pain management with tylenol, fentanyl
   .
   ACCESS: PIVs x 2, Right IJ,
   .
   CODE STATUS: Confirmed full on admission
   .
   EMERGENCY CONTACT: Daughter is HCP [**Name (NI) 3213**] [**Name (NI) 10633**] [**Telephone/Fax (1) 10634**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-9-14**] 03:00 AM
   20 Gauge - [**2142-9-14**] 03:03 AM
   Multi Lumen - [**2142-9-14**] 03:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-09-16 09:39:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 Afib with RVR
        -started on Dilt drip
Blood pressure lower - requiring continued pressors and IVF boluses
Low urine output - not sig responsive to IVF bolus
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Iodine
   Unknown; Rash;
   Ampicillin
   Rash; facial sw
   Last dose of Antibiotics:
   Cefipime - [**2142-9-14**] 11:30 AM
   Ceftriaxone - [**2142-9-14**] 03:00 PM
   Vancomycin - [**2142-9-16**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-9-15**] 08:49 PM
   Diltiazem - [**2142-9-16**] 02:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-16**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 95 (71 - 140) bpm
   BP: 73/55(59) {73/31(44) - 109/65(73)} mmHg
   RR: 13 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.1 kg (admission): 60 kg
   Height: 62 Inch
   CVP: 13 (3 - 13)mmHg
   Total In:
                                                                  4,071 mL
                                                                  1,806 mL
   PO:
   TF:
   IVF:
                                                                  3,951 mL
                                                                  1,806 mL
   Blood products:
   Total out:
                                                                    709 mL
                                                                     90 mL
   Urine:
                                                                    709 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,362 mL
                                                                  1,716 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 572 (522 - 586) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/44/115/23/3
   Ve: 9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   208 K/uL
   151 mg/dL
   2.6 mg/dL
   23 mEq/L
   5.0 mEq/L
   54 mg/dL
   105 mEq/L
   142 mEq/L
   24.0 %
   19.7 K/uL
        [image002.jpg]
                            [**2142-9-14**]  03:05 AM
                            [**2142-9-14**]  03:53 AM
                            [**2142-9-14**]  10:38 AM
                            [**2142-9-14**]  05:17 PM
                            [**2142-9-15**]  01:42 AM
                            [**2142-9-15**]  02:24 AM
                            [**2142-9-15**]  05:53 AM
                            [**2142-9-15**]  02:30 PM
                            [**2142-9-15**]  04:52 PM
                            [**2142-9-16**]  04:04 AM
   WBC
   21.6
   18.1
   13.4
   19.7
   Hct
   29.6
   29.1
   29.4
   24.0
   Plt
   191
   166
   151
   208
   Cr
   2.0
   1.7
   1.6
   1.6
   2.0
   2.6
   TropT
   2.88
   3.80
   TCO2
   26
   27
   30
   29
   Glucose
   100
   139
   317
   324
   162
   151
   Other labs: PT / PTT / INR:15.1/26.5/1.3, CK / CKMB /
   Troponin-T:1465/144/3.80, Differential-Neuts:85.0 %, Lymph:8.5 %,
   Mono:6.3 %, Eos:0.1 %, Lactic Acid:2.3 mmol/L, Ca++:7.0 mg/dL, Mg++:2.3
   mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 CARDIAC ARREST
   -etiology unclear.  [**Name2 (NI) 1204**] underlying severe CAD, ischemic dysrhythmia
   presumed secondary to CAD seems likely.  However LVEF preserved by
   report.  RV hypokinesis (global) and worsened pHTN consistent with
   massive PE but no evidence found on CT angio.
   -Cardiology following
   -Troponins up but MB not.  Trop elevation not surprising given
   prolonged resuscitation.
AFIB
   -difficult to control.  Since she was on three nodal agents as outpt
   regimen not surprising she is hard to control
   -Using Dilt challenging given borderline BP.  Would favor Digoxin as
   nodal [**Doctor Last Name **] with mildly positive inotropy - d/w cardiology.
MENTAL STATUS
   -significant improvement -- opening eyes to command now
SHOCK
   -BP remains borderline requiring IVF boluses
 seems to be quite fluid
   responsive.  Either distributive shock or perhaps global RV hypokinesis
   requiring higher preload
   -LVEF not depressed on echo but RV global HK with pulm HTN
Renal failure
   -creat up today
   -? forward flow/perfusion or dye induced (I+ CT Friday)
RESP FAILURE
   -cont mech ventilation

   -cont aspirin, plavix
Family considering making pt [**Name (NI) 617**] given the acuity of her illness and
   unlikelihood that she will be able to return to her prior level of
   functioning (which family said pt was already depressed about).
    For full detail of assessment and plan, please see resident note
   above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-9-14**] 03:00 AM
   20 Gauge - [**2142-9-14**] 03:03 AM
   Multi Lumen - [**2142-9-14**] 03:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill